US05071863
2. 4-Fluoro-5-methyl-6-(tetrahydro-2H-pyranyl)methylamino-2-benzoxazolone
3-Formyltetrahydro-2H-pyran (12.9 g, 113 mmol) was added to a solution of 6-amino-4-fluoro-5-methyl-2-benzoxazolone (17.4 g, 96 mmol) in MeOH (600 ml). The mixture was stirred for 1 hour at room temperature. AcOH (1 ml) was added, followed by an addition of sodium cyanoborohydride (8.17 g, 130 mmol). Stirring was continued for 5 hours. The reaction mixture was concentrated in vacuo, and the residue was treated with water. This crude product was recrystallized from EtOH, to give the titled compound.

reactant | 3-Formyltetrahydro-2H-pyran | 113 mmol, 12.9 g | C(=O)C1COCCC1 | C6H10O2
reactant | 6-amino-4-fluoro-5-methyl-2-benzoxazolone | 96 mmol, 17.4 g | NC1=CC2=C(NC(O2)=O)C(=C1C)F | C8H7FN2O2
reactant | AcOH | 1 ml | CC(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 130 mmol, 8.17 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 600 ml | CO | CH4O
product | 4-Fluoro-5-methyl-6-(tetrahydro-2H-pyranyl)methylamino-2-benzoxazolone | FC1=C(C(=CC2=C1NC(O2)=O)NCC2OCCCC2)C | C14H17FN2O3
